US08304419B2
Step A: Ethyl 1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate
1H-imidazole-4-carbaldehyde (1.05 g, 10.9 mmol) was added portion wise to a stirred suspension of NaH (0.437 g, 10.9 mmol) in 15 mL of DMF. After 1 hour a solution of SEM-Cl (1.93 mL, 10.9 mmol) in 3 mL of DMF was added dropwise over 10 minutes. The resulting solution was stirred for 3 hours at RT. The reaction mixture was partitioned between water and EtOAc. The organic layer was separated, dried over MgSO4 and evaporated to yellow oil. Purification was accomplished by silica gel column chromatography (40-100% EtOAc/hexanes) to afford the SEM protected imidazole carbaldehyde (1.8 g, 7.9 mmol) as a mixture of regioisomers. The mixture was dissolved in 5 mL of ethanol and azidoacetate (7.8 g, 15.1 mmol) was added. This solution was added to a solution of sodium ethoxide (8.91 mL, 23.86 mmol) at −20° C. After the addition was complete, the solution was stirred at −10° C. for 3 hours. The reaction mixture was poured into a saturated solution of ammonium chloride and extracted with ether 2×100 mL. The extracts were combined, dried over MgSO4, filtered and evaporated to an oil. Purification was accomplished by silica gel column chromatography (EtOAc/hexanes) to afford (1.111 g, 41% yield) of a yellow oil. The oil was dissolved in xylenes and heated to reflux for 3 hours. The solvent was evaporated under vacuum. Purification was accomplished by silica gel column chromatography (EtOAc/hexanes). The fractions collected contained multiple products and were combined. A second purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.088 g, 3%) as a solid. 1H NMR (400 MHz, CDCl3) δ ppm 10.80 (d, 1H), 8.77 (s, 1H), 6.97 (s, 1H), 5.71 (s, 2H), 4.38 (q, 2H), 3.41-3.84 (m, 2H), 1.39 (t, 3H), 0.83-1.11 (m, 2H), −0.03 (s, 9H).

reactant | 1H-imidazole-4-carbaldehyde | 10.9 mmol, 1.05 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | NaH | 10.9 mmol, 0.437 g | [H-].[Na+]
reactant | SEM-Cl | 10.9 mmol, 1.93 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | imidazole carbaldehyde | 7.9 mmol, 1.8 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | azidoacetate | 15.1 mmol, 7.8 g | N(=[N+]=[N-])CC(=O)[O-]
reactant | sodium ethoxide | 23.86 mmol, 8.91 mL | [O-]CC.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | Ethyl 1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate | 1.111 g, 41% yield | C[Si](CCOCN1C=NC2=C1C=C(N2)C(=O)OCC)(C)C | C14H23N3O3Si
